US08629271B2
b) 2-(3-Bromophenyl)-2-fluoroethanol
Lithium aluminum hydride (1M in THF, 13.0 mL) was added portionwise over 7 minutes to a solution of ethyl 2-(3-bromophenyl)-2-fluoroacetate (example 39, step a) (2.94 g) in THF (35 mL), pre-cooled in ice-water. The resulting mixture was stirred in ice-water for 30 minutes, then quenched by the careful addition of methanol (5 mL), added portionwise over 30 minutes. The mixture was poured into 2 molar aqueous HCl and extracted three times with ethyl, acetate. The combined organic extracts were washed with brine, dried over anhydrous magnesium sulphate and purified by flash chromatography on silica eluted with 25% diethyl ether in isohexane to afford the subtitled compound as colourless oil. Yield 1.39 g.

reactant | Lithium aluminum hydride | 1M, 13.0 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 2-(3-bromophenyl)-2-fluoroacetate | BrC=1C=C(C=CC1)C(C(=O)OCC)F | C10H10BrFO2
solvent | THF | 35 mL | C1CCOC1 | C4H8O
product | 2-(3-Bromophenyl)-2-fluoroethanol | BrC=1C=C(C=CC1)C(CO)F | C8H8BrFO
